US09079866B2
6-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}pyridine-2-carbonitrile
The title compound was prepared in a manner similar to that described in Example 88 using 6-(2-bromophenoxy)picolinonitrile and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H14FN5O, 383.12; m/z found, 383.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.40 (d, J=1.4, 2H), 7.99 (dd, J=8.5, 7.4, 1H), 7.71-7.67 (m, 1H), 7.56 (dd, J=7.6, 1.7, 1H), 7.55-7.46 (m, 2H), 7.42-7.37 (m, 1H), 7.35-7.25 (m, 4H), 6.85 (s, 2H).

reactant | 6-(2-bromophenoxy)picolinonitrile | BrC1=C(OC2=CC=CC(=N2)C#N)C=CC=C1 | C12H7BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 6-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}pyridine-2-carbonitrile | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC(=N1)C#N)F | C22H14FN5O
